US06166035
a) Preparation of 2-(5-chloropentanoyl)-1H-pyrrole
A solution of 26.7 g (0.200 mol) of aluminium chloride and 31 g (0.200 mol) of 5-chlorovaleryl chloride in 200 ml of 1,2-dichloroethane is added slowly to a solution of 13.4 g (0.200 mol) of pyrrole in 250 ml of 1,2-dichloroethane. The reaction medium is stirred for 2 h at room temperature and is poured onto ice-cold hydrochloric acid. After extraction with methylene chloride, a red-brown oil is obtained.

reactant | aluminium chloride | 0.200 mol, 26.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-chlorovaleryl chloride | 0.200 mol, 31 g | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | pyrrole | 0.200 mol, 13.4 g | N1C=CC=C1 | C4H5N
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 250 ml | ClCCCl | C2H4Cl2
product | 2-(5-chloropentanoyl)-1H-pyrrole | ClCCCCC(=O)C=1NC=CC1 | C9H12ClNO
